US07176310B1
18. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid 3,3-dimethyl-butyl ester
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using 3,3-dimethylbutanol (26 mg, 0.26 mmol) as the coupling partner. Concentration (no chromatography) yielded 54 mg (85%) of the titled compound. ESI-MS m/z 376 (MH+), 374 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | 3,3-dimethylbutanol | 0.26 mmol, 26 mg | CC(CCO)(C)C | C6H14O
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid 3,3-dimethyl-butyl ester | 54 mg, 85% | CC(CCOC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O)(C)C | C19H22FN3O4
